US06077857
a) N-tert-Butoxycarbonyl-4-piperidone oxime
To a stirred suspension of hydroxylamine hydrochloride (0.84 g, 12.0 mmol) in methanol (10 mL) at 0° C. was added solid Na2CO3 (0.64 g, 6.0 mmol). The mixture was stirred for ca. 5 min. N-t-Boc-4-piperidone (1.99 g, 10.0 mmol) was added and the mixture was stirred for ca 2 h. The reaction mixture was concentrated in vacuo to ca. half its original volume, then diluted with saturated NaHCO3 (100 mL) and extracted with CHCl3 (4×50 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo to yield 1.86 g (87%) of the desired product as a tan solid. MS (ES+) m/z 215.0 [M+H]+.

reactant | hydroxylamine hydrochloride | 12.0 mmol, 0.84 g | Cl.NO
reactant | Na2CO3 | 6.0 mmol, 0.64 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | N-t-Boc-4-piperidone | 10.0 mmol, 1.99 g | CC(C)(C)OC(=O)N1CCC(=O)CC1 | C10H17NO3
solvent | methanol | 10 mL | CO | CH4O
product | N-tert-Butoxycarbonyl-4-piperidone oxime | 1.86 g, 87% | C(C)(C)(C)OC(=O)N1CCC(CC1)=NO | C10H18N2O3
